* MOSFET Specifications
M1 3 5 6 6 NMOS
M2 4 2 6 6 NMOS
M3 6 3 8 8 PMOS
M4 4 3 7 7 PMOS

* Resistor
R1 6 3 R1_value

* Current Source
I1 6 0 DC ISS_value

* Voltage Source
VDD 7 8 DC VDD_value

* Inputs
Vin1 5 0 DC Vin1_value
Vin2 2 0 DC Vin2_value

* Outputs
Vout 4 0

.END